US08039460B2
Step B: Benzyl 1-methyl-2,4-dioxo-1,3,8-triazaspiro[4.5]decane-8-carboxylate
A solution of potassium cyanate (5.74 g, 70.8 mmol) in water (9 mL) was added dropwise to a solution of the hydrochloride salt of benzyl 4-cyano-4-(methylamino)piperidine-1-carboxylate (9.68 g, 35.4 mmol) in acetic acid (27 mL). The reaction mixture was heated at 50° C. After 1 h, the mixture was poured into cold water (200 mL). The mixture was extracted with ethyl acetate (4×), and the combined organic extracts were dried over magnesium sulfate and concentrated. A solution of HCl (10% in water; 40 mL) was added and the mixture was heated at 50° C. After 15 min, the reaction mixture was cooled to ambient temperature. The precipitated solid was filtered, washed with water, and dried under reduced pressure to give the title compound. MS 318.1 (M+1).

reactant | potassium cyanate | 70.8 mmol, 5.74 g | [O-]C#N.[K+]
reactant | benzyl 4-cyano-4-(methylamino)piperidine-1-carboxylate | 35.4 mmol, 9.68 g | C(#N)C1(CCN(CC1)C(=O)OCC1=CC=CC=C1)NC | C15H19N3O2
reactant | water | 9 mL | O | H2O
reactant | water | 200 mL | O | H2O
solvent | acetic acid | 27 mL | C(C)(=O)O | C2H4O2
product | Benzyl 1-methyl-2,4-dioxo-1,3,8-triazaspiro[4.5]decane-8-carboxylate | CN1C(NC(C12CCN(CC2)C(=O)OCC2=CC=CC=C2)=O)=O | C16H19N3O4
